US04313004
In a 5000 cc three necked flask equipped with an overhead stirrer, reflux condenser, nitrogen purge, dropping funnel and thermometer was charged 1978.1 gm. (18.64 moles) of diethylene glycol and 3.0 gm. of anhydrous lithium hydroxide. The overhead stirrer was then adjusted to high speed. Acrylonitrile was then added through the dropping funnel. Over the course of 5 hours a total of 2880 cc of acrylonitrile was added and reaction temperature reached a maximum of 66° C. with a water bath being maintained above 52° C. The reaction flask was then post-heated at 52°-72° C. for an additional 40 minutes. The reaction contents were cooled to room temperature and neutralized with glacial acetic acid. The reaction contents were filtered and the crude reaction product was stripped of all excess acrylonitrile under vacuum (15-30 mmHg) at a temperature not exceeding 60° C. to give the liquid bis-(-2-cyanoethyl)diethylene glycol. A GLC analysis showed the product to contain 99 percent dicyanoglycol and about 1 percent monocyanoglycol. This dicyanoglycol was used without further purification.

reactant | diethylene glycol | 18.64 moles | C(COCCO)O | C4H10O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | Acrylonitrile | C(C=C)#N | C3H3N
reactant | acrylonitrile | 2880 cc | C(C=C)#N | C3H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | bis-(-2-cyanoethyl)diethylene glycol | C(#N)CCC(COCCO)(CCC#N)O | C10H16N2O3
